US04878940
To a stirred mixture of 5.1 parts of 1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole-5-carboxaldehyde, 2.7 parts of 1,2-ethanethiol and 130 parts of dichloromethane were added dropwise 9.6 parts of chlorotrimethylsilane. Upon complete addition, stirring was continued overnight at 40° C. After cooling, the reaction mixture was washed with a potassium carbonate solution 10% in water and water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.69 parts (55.8%) of 5-(1,3-dithiolan-2-yl)-1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole; mp. 109.3° C. (compound 2.52).

reactant | 1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole-5-carboxaldehyde | CC1(C(C2=CC=CC=C2CC1)N1C=NC=C1C=O)C | C16H18N2O
reactant | 1,2-ethanethiol | C(CS)S | C2H6S2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(1,3-dithiolan-2-yl)-1-(1,2,3,4-tetrahydro-2,2-dimethyl-1-naphthalenyl)-1H-imidazole | 55.8% | S1C(SCC1)C1=CN=CN1C1C(CCC2=CC=CC=C12)(C)C | C18H22N2S2
